US03985888
The required diethyl γ-cyano-γ-phenylpimelate was prepared by reacting phenylacetonitrile with ethyl acrylate according to the general method of Koelsch, J. Am. Chem. Soc., 65, 437 (1943). This product, boiling point 148°-151° C. at 0.04 mm [Branchini et al., Ann. Chim. (Rome) 51, 1382 (1961) report 170°-172° C. at 0.2 mm] was obtained in addition to the mono-Michael addition product reported by Koelsch.

reactant | phenylacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
product | diethyl γ-cyano-γ-phenylpimelate | C(#N)C(CCC(=O)OCC)(CCC(=O)OCC)C1=CC=CC=C1 | C18H23NO4
